US06716998B2
Treatment of 2H-pyrano[2,3-f]quinolin-2-yl-methyl 4-methylbenzene-sulfonate with palladium on carbon (10 wt. %) in ethanol following the procedure described for Example 1c affords 3,4-dihydro-2H-pyrano[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate.

reactant | 2H-pyrano[2,3-f]quinolin-2-yl-methyl 4-methylbenzene-sulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1C=CC=2C(=C3C=CC=NC3=CC2)O1 | C20H17NO4S
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3,4-dihydro-2H-pyrano[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1CCC=2C(=C3C=CC=NC3=CC2)O1 | C20H19NO4S
